US07371747B2
To (3R/S,3aR/S,5S/R,6S/R,6aS/R,7S/R)-N-(cyanomethyl)-6-iodo-2-oxohexahydro-2H-3,5-methanocyclopenta[b]furan-7-carboxamide (1.45 g, 4.18 mmol) was added tetrahydrofuran (10 mL) and zinc dust (11.0 g, 170 mmol). 1 M aqueous KH2PO4 (21 mL, 21 mmol) was added and the reaction mixture was stirred at ambient temperature for 1 h. The reaction mixture was diluted with water and ethyl acetate and filtered through Celite™ and the Celite™ was washed well with water and ethyl acetate. The product was extracted into ethyl acetate and the combined extracts were washed with saturated aqueous sodium chloride solution. The organics were dried with anhydrous sodium sulfate and then concentrated on a rotary evaporator to give (1S,2R,3R,4R)-3-{[(cyanomethyl)amino]carbonyl}bicyclo[2.2.1]hept-5-ene-2-carboxylic acid as a faint-yellow solid.

reactant | N-(cyanomethyl)-6-iodo-2-oxohexahydro-2H-3,5-methanocyclopenta[b]furan-7-carboxamide | 4.18 mmol, 1.45 g | C(#N)CNC(=O)C1C2C3C(OC2=O)C(C1C3)I | C11H11IN2O3
reactant | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
reactant | KH2PO4 | 21 mmol, 1 M, 21 mL | OP(=O)(O)[O-].[K+]
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | zinc | 170 mmol, 11.0 g | [Zn] | Zn
product | (1S,2R,3R,4R)-3-{[(cyanomethyl)amino]carbonyl}bicyclo[2.2.1]hept-5-ene-2-carboxylic acid | C(#N)CNC(=O)[C@H]1[C@@H]([C@@H]2C=C[C@H]1C2)C(=O)O | C11H12N2O3
